US05491237
A 3-necked 4-L round-bottom flask is equipped with a mechanical stirrer and a 250-mL addition funnel. Under nitrogen, the flask is charged with methylene chloride (800 mL), followed by addition of oxalyl chloride (28.8 mL, 330 mmol). The solution is cooled to -78° C. and dimethyl sulfoxide (46.7 mL, 660 mmol) is added over 6 min. The temperature of the solution increases to -58° C. during the addition and is cooled back to about -70° C. After stirring for 3 min, [7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-yl]-methanol (100 g, 275 mmol), as prepared above, is added as a solution in 140 mL of methylene chloride over 10 min. The yellow slurry is stirred for 45 min, then anhydrous triethylamine (153 mL, 1.10 mol) is added over 4 min. Stirring is continued for 10 min at -78° C., then the cooling bath is removed. The reaction mixture is allowed to warm to -5° C. and poured into 2 L of water. The organic layer is separated and the aqueous layer is extracted with methylene chloride (3×1.5 L). The combined organic layers are washed with brine (2 L), dried over anhydrous sodium sulfate and concentrated in vacuo yielding 7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4 ]dioxino [2,3-g]quinolin-8-carbaldehyde as a dark solid. This crude product is used for the next step without further purification. Recrystallization from CH2Cl2 -MeOH (5:1) provided an analytical sample as a light yellow solid: 140°-142° C. (dec.). 1H NMR (CDCl3, 200 MHz) δ2.30 (s, 3H), 2.45, 2.59 (m, 8H), 3.98 (s, 2H). 4.41(s, 4H), 7.46 (s, 1H), 7.53 (s, 1H), 10.4 (s, 1H). Elemental analysis: Calculated for C18H20ClN3O3 : C 59.75, H 5.57, N 11.61. Found: C 59.78, H 5.62, N 11.64.

reactant | oxalyl chloride | 330 mmol, 28.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 660 mmol, 46.7 mL | CS(=O)C | C2H6OS
reactant | [7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-yl]-methanol | 275 mmol, 100 g | ClC1=NC=2C=C3C(=CC2C(=C1CO)CN1CCN(CC1)C)OCCO3 | C18H22ClN3O3
reactant | triethylamine | 1.10 mol, 153 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 140 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | 7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4 ]dioxino [2,3-g]quinolin-8-carbaldehyde | ClC1=NC=2C=C3C(=CC2C(=C1C=O)CN1CCN(CC1)C)OCCO3 | C18H20ClN3O3
